### PR TITLE
feat: cleanup FSM code to contain real abstractions instead of directly applying low-level functions.

### PR DESCRIPTION
**Pull request by bollu**

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 1]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
 open Sum
 
 section FSM
-variable {α β α' β' : Type} {γ : β → Type}
+variable {σ β σ' β' : Type} {γ : β → Type}
+
+/-- An `arity` indexed product of Booleans. -/
+def BoolProd (arity : Type) : Type := arity → Bool
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]: If we're going to refactor this, I think I'd prefer to just pay the cost once, change `arity` to a Nat, and use `BitVec w`

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 2]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
+by mapping each output `(b : β)` to a circuit that computes the output bit `b` from the input bits `(a : σ)`.
+-/
+def CircuitProd (σ : Type) (β : Type)  : Type := β  → Circuit σ
+
+/-- A circuitProd can be evaluated to map σ product of booleans to a β product of booleans. -/
+def CircuitProd.eval (x : CircuitProd σ β) (y : BoolProd σ) : BoolProd β  :=
+  fun a => (x a).eval y
+
+/-- A 'arity' indexed product of `Bitstream`s. -/
+def BitStreamProd (arity : Type) : Type := arity → BitStream
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion
def BitStreams (arity : Nat) : Type := Fin arity → BitStream
```

Comment (alexkeizer) [reply SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]: Although I fully admit I'm being self-contradictory, given my previous crusade against semantically similar definitions having a <= 1 edit distance, somehow singular vs plural feels like a safe exception to that rule.

Otherwise, I'd be more comfortable even calling it a `BitStreamVec`(tor) --- although that is tempting confusion with `BitVec`tors (aagh, why is naming so hard). In my mind, `Prod` means binary product, an n-ary product is a Vector

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 3]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
+
+def BitStreamProd.nthStream (x : BitStreamProd arity) (i : arity) : BitStream := x i
+def BitStreamProd.nthBits (x : BitStreamProd arity) (n : Nat) : BoolProd arity :=
+  fun i => (x i) n
+
+def BitStreamProd.head (x : BitStreamProd arity) : BoolProd arity :=
+  fun i => (x i).head
+
+def BitStreamProd.tail (x : BitStreamProd arity) : BitStreamProd arity :=
+  fun a => (x a).tail
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]: These could use some docstring explicitly explaining you're doing `head`/`tail` on the constituent bitstreams! I was a bit confused by the arity being the same on both sides at first.

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 4]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
 structure FSM (arity : Type) : Type 1 :=
   /--
-  The arity of the (finite) type `α` determines how many bits the internal carry state of this
-  FSM has -/
-  ( α  : Type )
-  [ i : Fintype α ]
-  [ dec_eq : DecidableEq α ]
+  The arity of the (finite) type `σ` (for `s`tate) determines how many bits the
+  internal carry state of this FSM has -/
+  ( σ  : Type ) -- Why is σ also not an index?
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion
  internal carry state of this FSM has. -/
  ( σ  : Type ) -- Why is σ also not an index?
```

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 5]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
 namespace FSM
 
-variable {arity : Type} (p : FSM arity)
 
-/-- The state of FSM `p` is given by a function from `p.α` to `Bool`.
+/-- The state of FSM `p` is given by a function from `p.σ` to `Bool`.
+
+Note that `p.σ` is assumed to be a finite type, so `p.State` is morally
+a finite bitvector whose width is given by the arity of `p.σ` -/
+abbrev State (p : FSM arity): Type := BoolProd p.σ
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion
a finite bitvector whose width is given by the arity of `p.σ`. -/
abbrev State (p : FSM arity): Type := BoolProd p.σ
```

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 6]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
+  fun a => match a with
+  | inl a => s a
+  | inr b => x b
+
+/-- the current otuput of the FSM-/
+def outBit {p : FSM arity} (state : p.State) (input : BoolProd arity) : Bool :=
+  (p.currentOutCircuit).eval (state.appendInput input)
+
+
+end FSM
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion

end FSM
```

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 7]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
+theorem outputStreamAux_zero (s₀ : p.State) (inputStream : BitStreamProd arity) :
+    outputStreamAux p s₀ inputStream 0 = outBit s₀ (inputStream.nthBits 0) := rfl
+
+@[simp]
+theorem outputStreamAux_succ (s₀ : p.State) (inputStream : BitStreamProd arity) (n : ℕ) :
+    outputStreamAux p s₀ inputStream (n+1) =
+    outputStreamAux p (p.nextState s₀ (inputStream.head)) inputStream.tail n := by rfl
+
+
+def StateStream (p : FSM arity) := ℕ → p.State
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion

def StateStream (p : FSM arity) := ℕ → p.State
```

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 8]
```diff
@@ -11,107 +11,191 @@ import SSA.Experimental.Bits.Fast.Circuit
...
+
+/-- `p.carryStream inputStream` computes the stream of carries, from the stream of inputs -/
+def carryStream (inputStream : BitStreamProd arity) : p.StateStream := fun n =>
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean]:
```suggestion
/-- `p.carryStream inputStream` computes the stream of carries, from the stream of inputs. -/
def carryStream (inputStream : BitStreamProd arity) : p.StateStream := fun n =>
```

File: SSA/Experimental/Bits/Fast/FiniteStateMachine.lean [hunk 9]
```diff
@@ -463,10 +469,21 @@ theorem carry_decr (x : Unit → BitStream) : ∀ (n : ℕ), decr.carry x (n+1)
   · simp [eval, decr, nextBit, carry, BitStream.decr, BitStream.decrAux]
   · rw [eval, carry_decr]; rfl
 
+/--
+If the set of states R is closed under the inverse image of next state,
+and if every state in the set R produces a true next output,
+and furthermore, if our initial state is not R,
+the the value at the initial state is zero, and furthermore, the state will not enter into R in the next state
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/FiniteStateMachine.lean:476]:
```suggestion
the value at the initial state is zero, and furthermore, the state will not enter into R in the next state
```

**Comment by tobiasgrosser** [comment]
This has now been superseeded, I guess.
